US04608374
11-[1-(2,4,6-Trimethylbenzyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
To 60 ml DMF, was added 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (5.0 g, 0.0186 mole), 2,4,6-trimethylbenzyl chloride (4.2 g, 0.025 mole), milled K2CO3 (15 g, 0.1 mole) and KI (0.01 g).

reactant | 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.0186 mole, 5.0 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | 2,4,6-trimethylbenzyl chloride | 0.025 mole, 4.2 g | CC1=C(CCl)C(=CC(=C1)C)C | C10H13Cl
reactant | K2CO3 | 0.1 mole, 15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 11-[1-(2,4,6-Trimethylbenzyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | CC1=C(CN2CCC(CC2)C2OC3=C(CN4C2=CC=C4)C=CC=C3)C(=CC(=C1)C)C | C27H32N2O
